US03983107
N-(Piperidinocarbonyl)-1-phenylpropene-2-sulfonamide
A solution of 1.9g. of N-(N,N-diphenylcarbamoyl)-1-phenylpropene-2-sulfonamide and 1.7g of piperidine in 10ml. of N,N-dimethylformamide is maintained at ca. 95°C. for 6 hours. It is then cooled to ambient temperature, and 100 ml. of ether is added. The mixture is extracted with 50 ml. of water, and then the water extract is acidified using concentrated hydrochloric acid. This causes the crude product to precipitate. It is filtered off, and then it is recrystallized from a mixture of acetone and water giving 670 mg. of N-(piperidinocarbonyl)-1-phenylpropene-2-sulfonamide, m.p. 159°-161° C.

reactant | N-(N,N-diphenylcarbamoyl)-1-phenylpropene-2-sulfonamide | C1(=CC=CC=C1)N(C(=O)NS(=O)(=O)C(=CC1=CC=CC=C1)C)C1=CC=CC=C1 | C22H20N2O3S
reactant | piperidine | 1.7g | N1CCCCC1 | C5H11N
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | N-(Piperidinocarbonyl)-1-phenylpropene-2-sulfonamide | N1(CCCCC1)C(=O)NS(=O)(=O)C(=CC1=CC=CC=C1)C | C15H20N2O3S
